US08034945B2
(b). N-[2-Bromo-4-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-6-(propane-1-sulfonylamino)-phenyl]-N-(3-methoxy-benzyl)-acetamide
A solution of propane-1-sulfonic acid [3-bromo-5-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-2-(3-methoxy-benzylamino)-phenyl]-amide (120 mg) in pyridine (3 ml) was treated with acetic anhydride (153 μl). After stirring for 17 h, the mixture was diluted with ethyl acetate and washed with water. The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by chromatography on silicagel in heptane/ethyl acetate 1/0→0/1 (v/v) as eluent.

reactant | propane-1-sulfonic acid [3-bromo-5-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-2-(3-methoxy-benzylamino)-phenyl]-amide | 120 mg | BrC=1C(=C(C=C(C1)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N)NS(=O)(=O)CCC)NCC1=CC(=CC=C1)OC | C31H37BrN4O4S
reactant | acetic anhydride | 153 μl | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-Bromo-4-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-6-(propane-1-sulfonylamino)-phenyl]-N-(3-methoxy-benzyl)-acetamide | BrC1=C(C(=CC(=C1)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N)NS(=O)(=O)CCC)N(C(C)=O)CC1=CC(=CC=C1)OC | C33H39BrN4O5S
